US07576090B2
N-[6-(6,7-Dimethoxyquinazolin-4-ylamino)benzothiazol-2-yl]nicotinamide was prepared by heating a mixture of N-(6-aminobenzothiazol-2-yl)nicotinamide (IM 4, 30 mg, 0.111 mmol) and 4-chloro-6,7-dimethoxyquinazoline (Fluorochem, 25 mg, 0.111 mmol) in ethanol (3 mL) to 80° C. for 2 h. The resulting precipitate was separated by filtration, washed with ethanol and dried (yellow solid, 44 mg, 96 μmol, 87%), LC/ESI-MS: m/z=459 [M+H]+; m/z=457 [M+H]−; Rt=2.60 min.

reactant | N-(6-aminobenzothiazol-2-yl)nicotinamide | 0.111 mmol, 30 mg | NC1=CC2=C(N=C(S2)NC(C2=CN=CC=C2)=O)C=C1 | C13H10N4OS
reactant | 4-chloro-6,7-dimethoxyquinazoline | 0.111 mmol, 25 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OC | C10H9ClN2O2
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | N-[6-(6,7-Dimethoxyquinazolin-4-ylamino)benzothiazol-2-yl]nicotinamide | COC=1C=C2C(=NC=NC2=CC1OC)NC1=CC2=C(N=C(S2)NC(C2=CN=CC=C2)=O)C=C1 | C23H18N6O3S
